US07683084B2
Prop-2-ynyl-(2,2,3,3-tetrafluoro-2,3-dihydro-benzo[1,4]dioxin-6-yl)-amine
Another method to prepare the titled compound is as follows. 2,2,3,3-Tetrafluoro-6-aminobenzodioxane (50.2 g, 225 mmol) and potassium carbonate (43.54 g, 315 mmol) were suspended into acetonitrile (250 mL), stirred in a 1-liter three-necked flask equipped with an overhead mechanical stirrer, and treated with ˜80% propargyl bromide in toluene (33.5 g, ˜225 mmol). The mixture was slowly heated to 65-70° C. over about three hours. Stirring was continued at that temperature for 24 hours, at which time the heat was turned off and the mixture was permitted to cool to room temperature. The mixture was filtered through a glass fritted funnel, and the solids were rinsed with acetonitrile (300 mL). The filtrate was concentrated, reconcentrated thrice from hexanes, and chromatographed on silica (0 to 1 to 2 to 4% EtOAc/hexanes) to give the titled compound.

reactant | 2,2,3,3-Tetrafluoro-6-aminobenzodioxane | 225 mmol, 50.2 g | FC1(C(OC2=C(O1)C=CC(=C2)N)(F)F)F | C8H5F4NO2
reactant | potassium carbonate | 315 mmol, 43.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | toluene | ˜225 mmol, 33.5 g | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
product | Prop-2-ynyl-(2,2,3,3-tetrafluoro-2,3-dihydro-benzo[1,4]dioxin-6-yl)-amine | C(C#C)NC1=CC2=C(OC(C(O2)(F)F)(F)F)C=C1 | C11H7F4NO2
